US05965614
Synthesis of Iso-butyl 2-bromopropionate
To a mixture of iso-butanol and 1.0 equivalent of pyridine in dry diethyl ether was added dropwise 1.3 equivalents of 2-bromopropionyl bromide at 0° C. After stirring at room temperature for 16 hours, the reaction was diluted with diethyl ether, washed with 1N HCl, water, aqueous NaHCO3, brine and dried over magnesium sulfate or sodium sulfate. Removal of the solvents at reduced pressure gave the title compound as a clear oil.

reactant | iso-butanol | C(C(C)C)O | C4H10O
reactant | pyridine | 1.0 equivalent | N1=CC=CC=C1 | C5H5N
reactant | 2-bromopropionyl bromide | 1.3 equivalents | BrC(C(=O)Br)C | C3H4Br2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Iso-butyl 2-bromopropionate | BrC(C(=O)OCC(C)C)C | C7H13BrO2
